US04515948
A mixture of 4.42 g. of sodium ethylate, 5.1 g. of β-anilino-propionitrile and 10.0 g. of 4-[1-hydroxy-2-(methylsulfonyl)-ethyl]-2,6-dimethoxy-carbanilic acid ethyl ester in 150 ml. of dimethylsulfoxide was stirred at 50° C. for 2 hours with the exclusion of moisture. The solution was poured into 1.5 liters of water and the resulting emulsion extracted with two 1 liter portions of ethyl acetate. The ethyl acetate extracts were washed with two 500 ml. portions of water, combined, dried over magnesium sulfate and evaporated under vacuum. The residue was chromatographed on 800 g. of silica gel using methylene chloride/ethyl acetate (3:1) and there was obtained 4-(3-anilino-2-cyano-allyl)-2,6-dimethoxy-carbanilic acid ethyl ester having a melting point of 150°-151° C. (recrystallization from alcohol).

reactant | sodium ethylate | CC[O-].[Na+]
reactant | β-anilino-propionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
reactant | 4-[1-hydroxy-2-(methylsulfonyl)-ethyl]-2,6-dimethoxy-carbanilic acid ethyl ester | C(C)OC(NC1=C(C=C(C=C1OC)C(CS(=O)(=O)C)O)OC)=O | C14H21NO7S
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | 1.5 liters | O | H2O
product | 4-(3-anilino-2-cyano-allyl)-2,6-dimethoxy-carbanilic acid ethyl ester | C(C)OC(NC1=C(C=C(C=C1OC)CC(=CNC1=CC=CC=C1)C#N)OC)=O | C21H23N3O4
